US05144045
Phosphorodichloridic Acid, Pentyl Ester
To a tap water cooled solution of 79 g of phosphorous oxychloride in 200 ml of carbon tetrachloride is added dropwise with stirring a solution of 50 g of 1-pentanol in 125 ml of carbon tetrachloride. The temperature rises to 30° C. and stirring is continued for 18 hours. The solvent is evaporated and the syrup evaporated with toluene several times. The residue is distilled rom a Kugelrohr still to give 108.7 g of the desired product as a colorless oil, B.P. 85°-90° C./0.3 mm.

reactant | water | O | H2O
reactant | phosphorous oxychloride | 79 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-pentanol | 50 g | C(CCCC)O | C5H12O
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 125 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Phosphorodichloridic Acid, Pentyl Ester | 108.7 g | P(OCCCCC)(=O)(Cl)Cl | C5H11Cl2O2P
